US08138340B2
Oxazole-4-carboxylic acid ethyl ester
To a sol. of formic acid (8.62 mL, 228 mmol) in dry THF (200 mL) was added portionwise CDI (37.05 g, 228 mmol), whereas a gas evolution occurred. The mixture was stirred for 30 min, and a sol. of ethyl isocyanoacetate (25 mL, 228 mmol) in Et3N (60.5 mL, 434 mmol) was added to the reaction mixture. The mixture was stirred at rt for 1 h, then under reflux overnight. The reaction mixture was allowed to cool to rt. Water was added, and the mixture was extracted with Et2O (3×). The combined org. extracts were dried over MgSO4, filtered and concentrated. Purification of the residue by FC (EtOAc/heptane; 1:5 →1:3→1:1) yielded the title compound (27.2 g, 84%). LC-MS: tR=0.58, ES+: 142.07.

reactant | formic acid | 228 mmol, 8.62 mL | C(=O)O | CH2O2
reactant | CDI | 228 mmol, 37.05 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | ethyl isocyanoacetate | 228 mmol, 25 mL | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | Et3N | 434 mmol, 60.5 mL | CCN(CC)CC | C6H15N
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | Oxazole-4-carboxylic acid ethyl ester | 27.2 g, 84% | C(C)OC(=O)C=1N=COC1 | C6H7NO3
